2136-05-20 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 105.5
F - [**2136-5-19**] 07:00 PM
   [**5-19**]
   - Pt febrile to over 105.5 overnight, improved w/ tylenol and cool
   sponges
   - Passed melanotic stools, no more hematemesis
   - Per BMT, expect white counts to recover within this week
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2136-5-19**] 10:30 PM
   Metronidazole - [**2136-5-19**] 11:08 PM
   Gentamicin - [**2136-5-20**] 04:59 AM
   Acyclovir - [**2136-5-20**] 05:00 AM
   Meropenem - [**2136-5-20**] 06:30 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-19**] 08:30 PM
   Meperidine (Demerol) - [**2136-5-20**] 04:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-20**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.8
C (105.5
   Tcurrent: 37.8
C (100.1
   HR: 90 (90 - 117) bpm
   BP: 105/57(68) {96/44(57) - 151/97(102)} mmHg
   RR: 15 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,330 mL
                                                                  1,283 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                  2,361 mL
                                                                  1,083 mL
   Blood products:
                                                                    823 mL
   Total out:
                                                                  1,400 mL
                                                                  1,038 mL
   Urine:
   1,038 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,930 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.48/32/112/19/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   28 K/uL
   9.9 g/dL
   114 mg/dL
   0.7 mg/dL
   19 mEq/L
   2.9 mEq/L
   15 mg/dL
   108 mEq/L
   139 mEq/L
   26.8 %
   0.1 K/uL
        [image002.jpg]
                             [**2136-5-19**]  10:57 PM
                             [**2136-5-19**]  11:44 PM
                             [**2136-5-20**]  05:28 AM
   WBC
   0.1
   Hct
   26.1
   26.8
   Plt
   45
   28
   Cr
   0.6
   0.7
   TCO2
   25
   Glucose
   106
   114
   Other labs: PT / PTT / INR:14.3/27.8/1.2, ALT / AST:29/90, Alk Phos / T
   Bili:107/0.6, Fibrinogen:667 mg/dL, Lactic Acid:0.7 mmol/L, LDH:479
   IU/L, Ca++:7.4 mg/dL, Mg++:2.9 mg/dL, PO4:1.8 mg/dL
   Microbiology: [**5-17**]:BCX: Enterococcus
   [**Date range (1) 6449**]: gram + cocci
   Assessment and Plan
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 HYPOCALCEMIA (LOW CALCIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RASH
 NEUTROPENIA
   This is a 64 year old man who was admitted to [**Hospital1 5**] on [**4-12**]^th for
   chemotherapy for AML, who is now profoundly neutropenic and febrile
   with persistent VRE bacterimia, and having hematemesis and melena
   consistent with acute GI bleed.
   # GI BLEED
   Acute bleed in the setting of neutropenia and leukopenia, as well as
   thrombocytopenia. This setting both increases bleeding risk from
   ordinary causes of GIB (e.g., PUD, AVM, etc); and also raises the
   question of infectious causes (e.g., HSV, CMV; or an erosive
   esophagitis). He is well covered for most microbial causes, including
   HSV at his current dose of acyclovir. CMV viral load was recently
   negative.
   - PPI bolus+drip
   - q6h checks of Hct, plts, coags
   - active T+S and transfuse for Hct less than 25
   - transfuse plts for less than 50 given active bleed
   - Fibrinogen for increases in INR
   - blood products in setting of fever is suboptimal; will give IVF
   boluses if fever rising and hemodynamics stable
   - GI consult much appreciated; appreciate prelim recs of watchful
   waiting, PPI, blood product support, trying to avoid endoscopy in the
   setting of profound neutropenia
   - HSV serologies
   # FEVER AND RASH
   Patient has neutropenic fever for which he has been on a lengthy course
   of multiple antimicrobials including wide antibacterial and antifungal
   coverage. Of particular concern today is the apparently new emergence
   of a morbilliform rash which would be consistent with a drug rash and
   suggests the possibility of drug fever. Aztreonam is one reasonable
   suspect; he has been on this medicine for a sustained period, giving
   time for a T-cell driven primary response to develop. Given ongoing
   VRE, VRE sepsis is also a reasonable source for fevers, although the
   high fevers are not accompanied by septic physiology, so the fever
   would seem out of proportion
   - Tylenol for T>102 if not having active bleeding
   - sponge baths, cooling blankets, other efforts to cool
   - changing aztreonam and substituting meropenem per ID recs
   - ID recs
   # ONGOING INFECTION
   VRE has been growing from cultures for many days now despite treatment
   with daptomycin, linezolid, and now daptomycin + gentamicin;
   nonetheless, gram positive cocci, most likely continued VRE infection,
   are growing out of bottles drawn as recently as [**5-19**]. Clot in cephalic
   vein must be presumed to be now seeded with VRE.  [**Month (only) 8**] be chronically
   seeding from GI source. Though previous TTE was negative, endocarditis
   is increasingly likely, that said a repeat negative TTE would not rule
   out and TEE would not be pursued for the same reasons as EGD.
   - continue dapto+gent
   - continue voriconazole and flagyl
   - as above, stopped aztreonam and started meropenem overnight
   - given cephalic clot, will need long-term ABX for endovascular
   infection
   # AML
   On clinical trial protocol. Recent bone marrow reportedly shows
   remission. Currently on filgrastim. Per his oncologist, he is entering
   the window during which counts usually recover, his bone marrow biopsy
   shows that Tx has been effective in eliminating AML.  Likely that he
   will be able to clear infection when counts recover.
   - increased filgrastim from 300 sc daily to 480 sc daily
   - appreciate heme/onc involvement in this phase of his care
   # DIARRHEA
   Was on bowel regimen prn and loperamide prn on the floor. These have
   been stopped. Monitor stools for guaiac. Diarrhea may explain his high
   requirements for potassium repletion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-5-19**] 06:43 PM
   22 Gauge - [**2136-5-19**] 06:44 PM
   Will likely need central line
   Prophylaxis:
   DVT: pneumoboots given low plts
   Stress ulcer:  ppi drip
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 4258**] has received 3 units pRBC's overnight and platelet transfusion
   too. He has remained febrile despite tylenol and antibiotics. He denies
   abdominal pain or emesis.
   Exam notable for Tm of 105 BP 108/66 HR of 94 RR of 30 with sats of
   100% on 2lpm O2 . His MM are dry and crusted. His lung fields are clear
   and there is minimal ankle edema. He does have a diffuse maculopapular
   rash. Labs notable for WBC 0.1 K, HCT 26.8 , plts of 28K, K+  2.9, Cr
   0.7 . CXR with clear lung fields and no effusions.
   Agree with plan to follow Hct / plts closely and relpete with pRBC/
   platelet transfusions as appropriate .he has poor IV access and his
   needs have escalated with ongoing GI bleed. Despite peristent
   bacteremia, he will need CVL access for short term to keep up with Hct/
   plt support. He will receive tylenol/ demerol for fevers and hopefully
   with immune reconstitution, will have clearance of bacteremia. Follow
   up echo to be ordered this week to r/ o endocarditis. Antibiotics to
   continue per ID recs.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2136-5-20**] 15:09 ------

2136-05-21 06:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2136-5-20**] 07:00 PM
 EKG - At [**2136-5-21**] 03:53 AM
 FEVER - 103.5
F - [**2136-5-21**] 05:00 AM
   - RIJ placed without event
   - Received 1unit pRBC's during the day
   - GI said no scope until counts recover (and even then, no scope unless
   he's bleeding)
   - Goal platelets > 30-50
   - ID rec TEE, CT torso when possible, otherwise no recs
   - Await CMV and HSV viral loads
   - Started TPN (couldn't before b/c of access)
   - Hct fell from 22.5 to 17.3 with 1 unit-->given 3 units pRBC
   overnight, will recheck with a.m. labs
   - 0230 HR 140s-->gave 500 cc bolus
   - 0300 RR 40s, O2 Sat fell to 80s, HR still 140s, started FM, lasix 40
   mg IV x 1, CXR with evidence of new volume overload
   - diuresed, improved O2 Sat and RR (~900cc our/3hours)
   - clarified with son/health-care proxy OK to resuscitate but do not
   intubate ([**First Name8 (NamePattern2) 174**] [**Known lastname 4258**] cell: [**Telephone/Fax (1) 6501**])
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2136-5-20**] 07:53 PM
   Voriconazole - [**2136-5-20**] 08:00 PM
   Acyclovir - [**2136-5-20**] 10:25 PM
   Daptomycin - [**2136-5-20**] 10:54 PM
   Meropenem - [**2136-5-20**] 11:50 PM
   Gentamicin - [**2136-5-21**] 05:12 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2136-5-20**] 07:53 PM
   Meperidine (Demerol) - [**2136-5-21**] 03:19 AM
   Morphine Sulfate - [**2136-5-21**] 03:53 AM
   Furosemide (Lasix) - [**2136-5-21**] 03:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-21**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 39.7
C (103.5
   HR: 113 (82 - 145) bpm
   BP: 106/63(73) {96/44(57) - 168/102(115)} mmHg
   RR: 18 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  5,180 mL
                                                                  2,015 mL
   PO:
                                                                    440 mL
           TF:
   IVF:
                                                                  3,968 mL
                                                                    869 mL
   Blood products:
                                                                    616 mL
                                                                    765 mL
   Total out:
                                                                  1,798 mL
                                                                  2,260 mL
   Urine:
                                                                  1,548 mL
                                                                  1,910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,382 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99% on 95% high-flow mask
   ABG: 7.42/26/67/17/-5 at 0400
   PaO2 / FiO2: 71
   Physical Examination
   GA: middle aged M lying in bed, AOx3, NAD
   HEENT: PERRLA. MMM. no cervical, auricular, submandibular
   supraclavicular LAD. no JVD. neck supple.
   Cards: PMI palpable at 5/6th IC space. No RVH. RRR S1/S2 heard. no
   murmurs/gallops/rubs.
   Neck: L subclavian central line placed
   Pulm: CTAB no crackles or wheezes
   Abd: soft, NT, +BS. no g/rt. neg HSM. neg [**Doctor Last Name **] sign.
   Extremities: wwp, no edema. DPs, PTs 2+.
   Neuro/Psych: answering questions appropriately. moving all extremities.
   Labs / Radiology
   25 K/uL
   13.1 g/dL
   121 mg/dL
   0.8 mg/dL
   17 mEq/L
   4.0 mEq/L
   17 mg/dL
   111 mEq/L
   141 mEq/L
   36.1 %
   0.2 K/uL
        [image002.jpg]
                             [**2136-5-19**]  10:57 PM
                             [**2136-5-19**]  11:44 PM
                             [**2136-5-20**]  05:28 AM
                             [**2136-5-20**]  01:00 PM
                             [**2136-5-20**]  09:05 PM
                             [**2136-5-21**]  03:43 AM
                             [**2136-5-21**]  03:53 AM
                             [**2136-5-21**]  04:34 AM
   WBC
   0.1
   0.1
   0.2
   Hct
   26.1
   26.8
   22.5
   17.3
   36.1
   Plt
   45
   28
   61
   46
   25
   Cr
   0.6
   0.7
   0.6
   0.8
   TCO2
   25
   18
   17
   Glucose
   106
   114
   136
   121
   Other labs: PT / PTT / INR:14.8/29.7/1.3, ALT / AST:28/85, Alk Phos / T
   Bili:84/0.4, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:734 mg/dL, Lactic Acid:2.6 mmol/L,
   LDH:465 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Blood cx [**5-11**]- [**5-19**]:  VRE
   Blood cx [**2045-5-19**]:  NGTD
   CMV VL:  pending
   Assessment and Plan
 PANCYTOPENIA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 HYPOCALCEMIA (LOW CALCIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RASH
 NEUTROPENIA
   This is a 64 year old man who was admitted to [**Hospital1 5**] on [**4-12**]^th for
   chemotherapy for AML, who is now profoundly neutropenic and febrile
   with persistent VRE bacterimia, and having hematemesis and melena
   consistent with acute GI bleed.
   # GI BLEED:  Unclear cause, although most likely would be infectious
   esophagitis (e.g. HSV, CMV) in the settting of profound
   immunosuppression.  Other potential causes would include ulcer.
   Appreciate GI recs.  No plan for endoscopy unless he is unstable and/or
   counts recover.
   - f/u Hct this morning after 3 units of blood
   - continue PPI gtt
   - continue q6h checks of Hct, platelets, and coags
   - transfuse to Hct >25, fibrinogen >100
   - f/u GI recs
   - f/u CMV viral load
   - fu/ HSV viral load
   - continue acyclovir for PCP [**Name Initial (PRE) 2000**]
   # FEVER:  Most likely secondary to ongoing VRE infection.  Blood
   cultures growing this daily 5/8/5/16.  Antibiotic course has been:
   Cefepime [**Date range (1) 6502**]
   Vancomycin [**Date range (1) 6503**]
   Vanco oral [**Date range (1) 6504**]
   Micafungin [**Date range (1) 6505**]
   ----
   Daptomycin 8mg/kg [**Date range (1) 6506**]
   Linezolid [**Date range (1) 6507**]
   Daptomycin 10mg/kg [**5-18**] -
   Gent 1mg/kg q8h [**5-18**] -
   Aztreonam [**Date range (1) 6508**]
   Meropenem [**5-19**] -
   metronidazole [**4-21**] -
   voriconazole [**5-2**] -
   As above, currently on daptomycin + meropenem + gentamicin +
   voriconazole + flagyl. Drug fever is also a concern.
   Patient has neutropenic fever for which he has been on a lengthy course
   of multiple antimicrobials including wide antibacterial and antifungal
   coverage. Of particular concern today is the apparently new emergence
   of a morbilliform rash which would be consistent with a drug rash and
   suggests the possibility of drug fever. Aztreonam is one reasonable
   suspect; he has been on this medicine for a sustained period, giving
   time for a T-cell driven primary response to develop. Given ongoing
   VRE, VRE sepsis is also a reasonable source for fevers, although the
   high fevers are not accompanied by septic physiology, so the fever
   would seem out of proportion
   - Tylenol for T>102 if not having active bleeding
   - sponge baths, cooling blankets, other efforts to cool
   - changing aztreonam and substituting meropenem per ID recs
   - ID recs
   # ONGOING INFECTION
   VRE has been growing from cultures for many days now despite treatment
   with daptomycin, linezolid, and now daptomycin + gentamicin;
   nonetheless, gram positive cocci, most likely continued VRE infection,
   are growing out of bottles drawn as recently as [**5-19**]. Clot in cephalic
   vein must be presumed to be now seeded with VRE.  [**Month (only) 8**] be chronically
   seeding from GI source. Though previous TTE was negative, endocarditis
   is increasingly likely, that said a repeat negative TTE would not rule
   out and TEE would not be pursued for the same reasons as EGD.
   - continue dapto+gent
   - continue voriconazole and flagyl
   - as above, stopped aztreonam and started meropenem overnight
   - given cephalic clot, will need long-term ABX for endovascular
   infection
   # AML
   On clinical trial protocol. Recent bone marrow reportedly shows
   remission. Currently on filgrastim. Per his oncologist, he is entering
   the window during which counts usually recover, his bone marrow biopsy
   shows that Tx has been effective in eliminating AML.  Likely that he
   will be able to clear infection when counts recover.
   - increased filgrastim from 300 sc daily to 480 sc daily
   - appreciate heme/onc involvement in this phase of his care
   # DIARRHEA
   Was on bowel regimen prn and loperamide prn on the floor. These have
   been stopped. Monitor stools for guaiac. Diarrhea may explain his high
   requirements for potassium repletion
   ICU Care
   Nutrition:
   TPN without Lipids - [**2136-5-20**] 09:30 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-5-19**] 06:43 PM
   22 Gauge - [**2136-5-19**] 06:44 PM
   Multi Lumen - [**2136-5-20**] 07:00 PM
   Prophylaxis:
   DVT: pneumoboots given thrombocytopenia
   Stress ulcer:  PPI gtt
   VAP:
   Comments:
   Communication:  Comments:
   Code status: rususcitate but no intubation
   Disposition: ICU for now

2136-05-22 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2136-5-21**] 01:36 PM
   Shows decreased EF 25-30%; LV hypokinesis w inferior akinesis; these
   are changes compared to prior echo showing EF 55%, normal systolic
   function
 NON-INVASIVE VENTILATION - START [**2136-5-21**] 10:57 PM
 FEVER - 103.9
F - [**2136-5-21**] 05:00 PM
   - Flash Pulmonary Edema ~ 6pm, improved somewhat with lasix, was placed
   on shovel mask yesterday afternoon.
    - 10pm: Tachypnea, tachycardia, (not hypoxia) and repeat pulmonary
   edema of CXR.  Given lasix, ativan, morphine, nitro gtt, started on
   NIPPV and resolved.
    Was able to be weaned back to NRB this morning but was placed back on
   Bi-Pap given tachycardia and worsening shortness of breath.  Repeat CXR
   this afternoon showed:
   - Started on low dose captopril today for afterload reduction
   - VRE now DRE, started on Linezolid; Gentamycin D/C
d per ID
   recommendations
   Changed to DNR/DNI last night after discussion w patient and family,
   this was re-addressed with the family today who confirmed they would
   like the patient to be DNR/DNI..
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2136-5-20**] 10:54 PM
   Voriconazole - [**2136-5-21**] 08:00 PM
   Linezolid - [**2136-5-22**] 01:00 AM
   Gentamicin - [**2136-5-22**] 04:00 AM
   Acyclovir - [**2136-5-22**] 04:16 AM
   Meropenem - [**2136-5-22**] 05:48 AM
   Metronidazole - [**2136-5-22**] 05:52 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Meperidine (Demerol) - [**2136-5-21**] 04:03 PM
   Furosemide (Lasix) - [**2136-5-21**] 10:15 PM
   Morphine Sulfate - [**2136-5-21**] 11:30 PM
   Lorazepam (Ativan) - [**2136-5-22**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-22**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.9
   Tcurrent: 39.3
C (102.8
   HR: 124 (104 - 162) bpm
   BP: 117/80(88) {94/51(59) - 174/101(117)} mmHg
   RR: 24 (16 - 41) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 14 (6 - 332)mmHg
   Total In:
                                                                  5,215 mL
                                                                  1,743 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  2,513 mL
                                                                    924 mL
   Blood products:
                                                                    765 mL
                                                                    300 mL
   Total out:
                                                                  3,770 mL
                                                                      0 mL
   Urine:
                                                                  3,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,445 mL
                                                                  1,743 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 1,128 (811 - 1,128) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.45/32/196/25/0
   Ve: 18.3 L/min
   PaO2 / FiO2: 327
   Physical Examination
   GA:older man lying in bed, appears unhappy but no distress
   HEENT: PERRLA. MMM. no cervical, auricular, submandibular
   supraclavicular LAD. no JVD. neck supple.
   Cards: normal s1/s2, no murmurs
   Neck: R IJ in place
   Pulm: CTAB no crackles or wheezes
   Abd: soft, NT, +BS. no g/rt. neg HSM. neg [**Doctor Last Name **] sign.
   Extremities: wwp, no edema. DPs, PTs 2+.
   Neuro/Psych: answering questions appropriately. moving all extremities.
   Labs / Radiology
   22 K/uL
   11.3 g/dL
   160 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   25 mg/dL
   105 mEq/L
   138 mEq/L
   31.9 %
   0.2 K/uL
        [image002.jpg]
                             [**2136-5-21**]  04:34 AM
                             [**2136-5-21**]  10:49 AM
                             [**2136-5-21**]  03:33 PM
                             [**2136-5-21**]  06:17 PM
                             [**2136-5-21**]  07:05 PM
                             [**2136-5-21**]  07:40 PM
                             [**2136-5-21**]  10:10 PM
                             [**2136-5-21**]  11:08 PM
                             [**2136-5-21**]  11:15 PM
                             [**2136-5-22**]  04:00 AM
   WBC
   0.2
   0.1
   0.1
   0.4
   0.2
   Hct
   36.3
   33.8
   33.2
   38
   35.2
   31.9
   Plt
   20
   19
   21
   12
   22
   Cr
   0.9
   0.9
   TropT
   0.16
   0.23
   TCO2
   17
   20
   25
   23
   23
   Glucose
   164
   170
   160
   Other labs: PT / PTT / INR:13.8/29.4/1.2, CK / CKMB /
   Troponin-T:735/3/0.23, ALT / AST:28/85, Alk Phos / T Bili:84/0.4,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:67.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:704 mg/dL, Lactic Acid:2.5 mmol/L, LDH:465 IU/L, Ca++:7.7
   mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR:
   Microbiology: Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
      Anaerobic Bottle Gram Stain (Final [**2136-5-21**]):
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
      Aerobic Bottle Gram Stain (Final [**2136-5-22**]):
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
   ENTEROCOCCUS FAECIUM
   AMPICILLIN------------  =>32 R
   DAPTOMYCIN------------       R
   LINEZOLID-------------     2 S
   PENICILLIN G----------  =>64 R
   VANCOMYCIN------------  =>32 R
   Assessment and Plan
 PULMONARY EDEMA
 PANCYTOPENIA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 HYPOCALCEMIA (LOW CALCIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RASH
 NEUTROPENIA
   This is a 64 year old man who was admitted to [**Hospital1 5**] on [**4-12**]^th for
   chemotherapy for AML, who is now profoundly neutropenic and febrile
   with persistent VRE bacteremia, and having hematemesis and melena
   consistent with acute GI bleed, now requiring Bi-PAP for pulmonary
   edema and shortness of breath.
   # Hypoxia:  Episode of worsening hypoxia and tachypnea overnight, CXR
   consistent with flash pulmonary edema in setting of  decreased ejection
   fraction.
   - BiPAP as above
   - DNR/DNI
   - gentle diuresis with lasix as tolerated
   #Tachycardia: HR up to 150
s this afternoon, trial of IVF today given
   that patient may be dry due to lasix  as well as IV lopressor. Tele
   shows sinus tach often occuring in the setting of fevers/rigors, but
   unclear why patient still having worsening sinus tach throughout the
   course of the day.  Tachycardia could be related to heart failure and
   worsening EF.  Pt maintaining blood pressures.
   - Consider standing low dose metoprolol for sinus tach, given reduced
   EF
   # GI BLEED:  Hct still trending downward although recent values include
   post-transfusion shift, total recent loss not clear and grossly he
   reportedly has not been putting out as much melanotic stool. Possible
   causes include infectious esophagitis (e.g. HSV or CMV in the settting
   of profound immunosuppression.  Other potential causes would include
   ulcer.  Appreciate GI recs.  No plan for endoscopy unless he is
   unstable and/or counts recover.
   - continue Q6 Hct checks; last Hct this morning 29.6
   - continue PPI gtt
   - transfuse to Hct >30, fibrinogen >100
   - f/u GI recs
   - f/u CMV viral load
   - fu/ HSV viral load
   - continue acyclovir (likely should be treatment doses given possible
   HSV contribution to GI bleed, will clarify this with ID)
   # FEVER:  Most likely secondary to ongoing VRE infection, now shown to
   be daptomycin resistant.  At this point, a trial of linezolid will help
   clarify whether his ongoing infection is really simply the product of
   inadequate treatment, or whether the evolution of the microbe is the
   product of an inadequately treated source. The source of his bacteremia
   is unclear; as prior, cephalic vein clot, endocarditis not seen by TTE,
   or GI source given past typhlitis are top suspects.  Blood cultures
   continue to grow daily VRE.
   Antibiotic course has been:
   Cefepime [**Date range (1) 6502**]
   Vancomycin [**Date range (1) 6503**]
   Vanco oral [**Date range (1) 6504**]
   Micafungin [**Date range (1) 6505**]
   ----
   Daptomycin 8mg/kg [**Date range (1) 6506**]
   Linezolid [**Date range (1) 6507**]; [**5-22**]-present
   Daptomycin 10mg/kg [**5-18**]
 [**5-22**]
   Gent 1mg/kg q8h [**5-18**] - present
   Aztreonam [**Date range (1) 6508**]
   Meropenem [**5-19**] - present
   metronidazole [**4-21**] - present
   voriconazole [**5-2**] - present
   As above, currently on linezolid + meropenem + gentamicin +
   voriconazole + flagyl.  He will likely be more able to clear the
   infection when his WBC recover.   Another potential source of fever
   could be a drug reaction, although we had hoped that this might have
   been from aztreonam and given that his fevers continue after d/c
   this medication and without significant worsening of his morbilliform
   rash, VRE is probably the likely ongoing source of fever.
   - continue Tylenol around-the-clock
   - continue meperidine for comfort, though low dose given that
   meperedine with linezolid can lower seizure threshold
   - continue Linezolid as above, Gentamycin d/c
d per ID recs
   - continue voriconazole, meropenem, and flagyl for empiric coverage of
   neutropenic fever
   # Decreased EF: Worsening cardiac enzymes, decreased EF, focal wall
   motion abnormalities, suggestive of myocardial ischemia/infarction,
   although enzyme elevation may be partly demand-related in setting of
   tachycardia overnight. Difficult to intervene at this point given the
   severity of his GI bleed, which would likely be life-threatening in the
   face of heparin. He is currently DNR/DNI.
   - support Hct >30
   - continue BiPAP to optimize O2 delivery
   - trend enzymes for prognostic purposes
   - Continue captopril for afterload reduction, titrate up as BP
   tolerates
   # AML:  On cytarabine +/- clofarabine with reported remission on recent
   BM bx.
   - continue filgrastim
   - f/u heme/onc recs
   ICU Care
   Nutrition:
   TPN without Lipids - [**2136-5-21**] 07:45 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-5-20**] 07:00 PM
   20 Gauge - [**2136-5-22**] 05:08 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:

2136-05-23 06:09:00 Physician Resident Progress Note
Chief Complaint: UGIB in setting of new AML, s/p chemotherapy
   24 Hour Events:
 FEVER - 103.2
F - [**2136-5-22**] 08:00 PM
   Ongoing fevers and rigors
   Ongoing sinus tachycardia, somewhat reduced by metoprolol
   Several episodes of decreased O2 sats; x-ray wet read from evening stat
   portable states "Diffuse bilateral infiltrative pulmonary process
   continues to worsen, right greater than left, more consolidative at the
   right base."
   BiPAP restarted.
   Family met with Dr. [**Last Name (STitle) **]; conclusion: DNR/DNI status should be
   continued; continuing full care in other respects
   Cefepime [**Date range (1) 6502**]
   Vancomycin [**Date range (1) 6503**]
   Vanco oral [**Date range (1) 6504**]
   Micafungin [**Date range (1) 6505**]
   ----
   Daptomycin 8mg/kg [**Date range (1) 6506**]
   Linezolid [**Date range (1) 6507**]; [**5-22**]-present
   Daptomycin 10mg/kg [**5-18**]
 [**5-22**]
   Gent 1mg/kg q8h [**5-18**] - present
   Aztreonam [**Date range (1) 6508**]
   Meropenem [**5-19**] - present
   metronidazole [**4-21**] - present
   voriconazole [**5-2**] - present
   History obtained from Medical records
   Patient unable to provide history: difficulty communicating; fatigue;
   bipap
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2136-5-20**] 10:54 PM
   Gentamicin - [**2136-5-22**] 04:00 AM
   Voriconazole - [**2136-5-22**] 08:55 PM
   Metronidazole - [**2136-5-22**] 10:36 PM
   Meropenem - [**2136-5-22**] 11:39 PM
   Linezolid - [**2136-5-22**] 11:39 PM
   Acyclovir - [**2136-5-23**] 04:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2136-5-22**] 03:00 PM
   Furosemide (Lasix) - [**2136-5-22**] 08:30 PM
   Meperidine (Demerol) - [**2136-5-23**] 04:30 AM
   Morphine Sulfate - [**2136-5-23**] 04:30 AM
   Metoprolol - [**2136-5-23**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: condom cath intermittently
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2136-5-23**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 39.1
C (102.3
   HR: 127 (110 - 159) bpm
   BP: 104/71(79) {88/60(67) - 147/92(107)} mmHg
   RR: 30 (21 - 39) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  4,582 mL
                                                                    220 mL
   PO:
   TF:
   IVF:
                                                                  2,782 mL
                                                                    220 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,070 mL
                                                                     30 mL
   Urine:
                                                                  1,070 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,512 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 858 (858 - 858) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: ///25/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: Thin, Anxious, rigoring
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11 K/uL
   10.4 g/dL
   111 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   26 mg/dL
   105 mEq/L
   142 mEq/L
   30.1 %
   0.2 K/uL
        [image002.jpg]
                             [**2136-5-21**]  07:05 PM
                             [**2136-5-21**]  07:40 PM
                             [**2136-5-21**]  10:10 PM
                             [**2136-5-21**]  11:08 PM
                             [**2136-5-21**]  11:15 PM
                             [**2136-5-22**]  04:00 AM
                             [**2136-5-22**]  10:40 AM
                             [**2136-5-22**]  04:19 PM
                             [**2136-5-22**]  10:31 PM
                             [**2136-5-23**]  03:27 AM
   WBC
   0.1
   0.4
   0.2
   0.1
   0.3
   0.2
   0.2
   Hct
   33.2
   38
   35.2
   31.9
   29.6
   31.5
   29.4
   30.1
   Plt
   21
   12
   22
   15
   13
   13
   11
   Cr
   0.9
   0.9
   1.0
   TropT
   0.16
   0.23
   0.12
   TCO2
   25
   23
   23
   Glucose
   164
   170
   160
   111
   Other labs: PT / PTT / INR:14.3/33.9/1.2, CK / CKMB /
   Troponin-T:802/2/0.12, ALT / AST:23/92, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:67.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:704 mg/dL, Lactic Acid:2.5 mmol/L, LDH:658 IU/L, Ca++:7.8
   mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Cmv vrial load negative
   Hsv serologies pending
   BCX [**Date range (1) 6571**] pending; [**2045-5-18**]: VRE dapto R
   CXR: possible improvement in pulm edema but difficult to compare to
   previous study
   Assessment and Plan
 PULMONARY EDEMA
 PANCYTOPENIA
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 HYPOCALCEMIA (LOW CALCIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RASH
 NEUTROPENIA
   64 year old man who was admitted to [**Hospital1 5**] on [**4-12**]^th for
   chemotherapy for AML, who is now profoundly neutropenic and febrile
   with persistent VRE bacteremia, and had hematemesis and melena
   consistent with acute GI bleed, now requiring Bi-PAP for pulmonary
   edema and shortness of breath.
   # Hypoxia:  Worsening hypoxia and tachypnea, previous CXR consistent
   with flash pulmonary edema in setting of  decreased ejection fraction;
   showing improvement s/p diuresis. Current CVP does not imply fluid
   overload.   Also need to consider possibiluty of early ARDS given
   persistent bacterimia, TRALI given recent transfusions, and PE given hx
   of other thrombosis (cephalic vein).
   - Continue BiPAP, intubation is not an option as he is DNI; need to
   recheck ABG (last over 24hrs ago)
   - Consider CTA to assess for PE and also lung parenchyma although pt
   not currently able to lie flat; f/u LENIs
   - Minimize fluid volumes with Abx and other meds as per pharmacy
   - Daily weights for better eval of volume status as incontinent and not
   candidate for foley
   - Monitor CVP and dose lasix prn
   - Daily CXR
   #Tachycardia: Sinus tach on 12-lead. [**Month (only) 8**] be compensatory for decreased
   EF or may be [**2-6**] fevers and persistent infxn.  Pt maintaining blood
   pressures at high rates.  Trop leak likely [**2-6**] demand from high rate.
   Currently euvolemic as by CVP
s. Rates centered in low 100s which is an
   improvement since yesterday when he frequently averaged in 140s.
   - Continue prn order for metoprolol for HR>130
   - repeat 12-lead
   # GI BLEED:  Hct relatively stable and has not required transfusion for
   over 24hrs. By report, has not been putting out as much melanotic
   stool. Possible causes include infectious esophagitis (e.g. HSV or CMV
   in the settting of profound imunosuppression).  Other potential causes
   would include ulcer; nothing to suggest liver.  - continue Q6 Hct
   checks; last Hct this morning 30.1
   - continue PPI gtt
   - transfuse to Hct >26, fibrinogen >100
   - f/u GI recs; No plan for endoscopy unless he is unstable and/or
   counts recover.
   - CMV viral load negative
   - fu/ HSV seologies; continue acyclovir
   # FEVER/ Neutropenia:  Most likely secondary to ongoing VRE infection
   which is now shown to be daptomycin resistant.  . The source of his
   abx-refractory bacteremia is unclear; cephalic vein clot, endocarditis
   not seen by TTE, or GI source given past typhlitis are top suspects.
   Blood cultures continue to grow daily VRE. ABX course as outlined
   above. In theory, will likely
   As above, currently on linezolid + meropenem + voriconazole.  He will
   likely be more able to clear the infection when his WBC recover.
   Another potential source of fever could be a drug reaction, although we
   had hoped that this might have been from aztreonam and given that his
   fevers continue after d/c
ing this medication and without significant
   worsening of his morbilliform rash, VRE is probably the likely ongoing
   source of fever.
   - continue Tylenol around-the-clock
   - continue meperidine for comfort, though low dose given that
   meperedine with linezolid can lower seizure threshold
   - continue Linezolid as above;       Gentamycin d/c
d per ID recs
   - continue voriconazole and meropenem for empiric coverage of
   neutropenic fever
   - US of UE to determine if Cephalic vein clot persists, if so, would
   consider possiblity of thrombectomy
   # Decreased EF: Worsening cardiac enzymes, decreased EF, focal wall
   motion abnormalities, suggestive of myocardial ischemia/infarction,
   although enzyme elevation most likely [**2-6**] demand in setting of
   tachycardia ans not representive of ACS. Difficult to intervene at this
   point given GI bleed.
   - support Hct >26
   - continue BiPAP to optimize O2 delivery
   - Continue captopril for afterload reduction, titrate up as BP
   tolerates
   # AML:  On cytarabine +/- clofarabine with reported remission on recent
   BM bx.  Begininning to have neutrophils in peripheral blood.
   - continue filgrastim
   - f/u heme/onc recs
   ICU Care
   Nutrition: currently hold TPN [**2-6**] fluid status
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-5-20**] 07:00 PM
   20 Gauge - [**2136-5-22**] 05:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: ppi drip
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU